US04758369
Preparation of 4-(methylsulfonyl)benzoic acid (a precursor)
A mixture of 5 g of 4-(methylthio)-benzoic acid (97%) and 30 mL of glacial acetic acid was formed. The mixture was cooled in a water bath containing a small amount of ice. To the mixture was added 8.5 g of 30% hydrogen peroxide gradually over one hour. No temperature rise was observed during the addition of the hydrogen peroxide. The reaction mixture was then heated for one and a half hours with the temperature ranging between 70° C. and 100° C. Heating was stopped and the reaction mixture was allowed to cool to room temperature. A solid was present in the reaction mixture. A solution of 3 g of sodium sulfite in 57 g of water was added to the reaction mixture. The solid was filtered from solution and was washed three times with cold deionized water. The solid was transferred to a watchglass and dried overnight. The dried product weighed 5.25 g which is a yield of 88.1% of the theoretical based upon the amount of the starting benzoic acid.

reactant | 4-(methylthio)-benzoic acid | 5 g | CSC1=CC=C(C(=O)O)C=C1 | C8H8O2S
reactant | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
reactant | hydrogen peroxide | 8.5 g | OO | H2O2
reactant | sodium sulfite | 3 g | S(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 57 g | O | H2O
product | 4-(methylsulfonyl)benzoic acid | yield of 88.1% | CS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C8H8O4S
